US04966915
N-benzyloxycarbonyl-L-dopa (3.30 g) was dissolved in a mixture of 50 ml of water and 10 ml of ethyl ether. Under stirring with ice cooling, 10 ml of a 1N sodium hydroxide aqueous solution and 10 ml of an ethyl ether solution of 1.20 g pivaloyl chloride were added dropwise at the same time over a period of 30 minutes while keeping pH at 6.0 to 8.0 After the addition was over, the mixture was stirred at room temperature for 1 hour, and diluted with 50 ml of ethyl acetate. Subsequently, 2N hydrochloric acid was added to adjust pH to 2.0. An organic layer was taken out, water-washed and dried over anhydrous magnesium sulfate. After the drying agent was separated by filtration, the solvent was evaporated under reduced pressure. When the residue was purified by silica gel column chromatography (Wakogel C-100, 120 g, eluted with methylene chloride/methanol=5/1), 2.60 g (yield 62.6%) of N-benzyloxycarbonyl-mono-O-pivaloyl-L-dopa was obtained as a pale yellow glass solid.

reactant | N-benzyloxycarbonyl-L-dopa | 3.30 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1=CC=C(O)C(O)=C1 | C17H17NO6
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | pivaloyl chloride | 1.20 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
product | N-benzyloxycarbonyl-mono-O-pivaloyl-L-dopa | 2.60 g, yield 62.6% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C(C)(C)C)=O)CC1=CC=C(O)C(O)=C1 | C22H25NO7
